US08124249B2
a) 9,10-Bis(2-formylphenyl)anthracene (atropisomer mixture)
2.3 g (2 mmol) of tetrakistriphenylphosphinopalladium(0) are added to a well-stirred, degassed suspension of 33.6 g (100 mmol) of 9,10-dibromo-anthracene, 45.0 g (300 mmol) of 2-formylbenzeneboronic acid and 55.1 g (520 mmol) of sodium carbonate in a mixture of 500 ml of toluene, 150 ml of ethanol and 400 ml of water, and the mixture is refluxed for 60 h. After cooling, the organic phase is separated off, washed three times with 500 ml of water and once with 500 ml of saturated, aqueous sodium chloride solution and subsequently dried over magnesium sulfate. After the drying agent has been filtered off, the organic phase is evaporated to dryness under reduced pressure in a rotary evaporator. The oily residue obtained in this way is dissolved in 300 ml of chloroform and filtered through a silica-gel frit with suction. After evaporation of the chloroform phase under reduced pressure, the pasty residue is taken up in 200 ml of ethanol and stirred at room temperature for 1 h. The deposited crystals are filtered off with suction, washed with 50 ml of ethanol and subsequently dried under reduced pressure; yield. 24.5 g, 63.4% of theory, 98% according to 1H-NMR. According to 1H-NMR, this fraction comprises two atropisomers, evident from the two spectroscopically resolved signals of the formyl protons, in the ratio 1.0 (δ=9.43 ppm):1.5 (δ=9.40 ppm). The ethanol mother liquor is concentrated to an oil under reduced pressure; yield: 12.8 g, 33.1% of theory, 97% according to 1H-NMR. According to 1H-NMR, this fraction comprises two atropisomers in the ratio 1.0 (δ=9.43 ppm):2.9 (δ=9.40 ppm).

reactant | 9,10-dibromo-anthracene | 100 mmol, 33.6 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | 2-formylbenzeneboronic acid | 300 mmol, 45.0 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 520 mmol, 55.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakistriphenylphosphinopalladium(0) | 2 mmol, 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 400 ml | O | H2O
product | 9,10-Bis(2-formylphenyl)anthracene | C(=O)C1=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=C(C=CC=C1)C=O | C28H18O2
